US20010047026A1
8-Fluoro-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid
In a manner similar to Example 17, 1-oxo-indan-4-carboxylic acid (1.00 g, 5.68 mmol) and 4-fluorophenylhydrazine hydrochloride (0.923 g, 5.68 mmol) were converted to the title compound (0.140 g, 10%) as an off-white solid: mp>300° C.; 1H NMR (DMSO-d6): δ 3.98 (s, 2H), 6.93 (d of t, 1H), 7.38 (d of d, 1H), 7.44 (d of d, 1H), 7.50 (d, 1H), 7.77-7.80 (m, 2H), 11.72 (s, 1H), 13.43 (s, 1H); MS [EI, m/z]: 267 [M]+.

reactant | 1-oxo-indan-4-carboxylic acid | 5.68 mmol, 1.00 g | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | 4-fluorophenylhydrazine hydrochloride | 5.68 mmol, 0.923 g | Cl.FC1=CC=C(C=C1)NN
product | 8-Fluoro-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid | 0.140 g, 10% | FC1=CC=2C3=C(NC2C=C1)C=1C=CC=C(C1C3)C(=O)O | C16H10FNO2
